US05028606
To a stirred and cooled (0° C.) mixture of 9 parts of 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-1,2-benzenediamine in 80 parts of acetic acid and 20 parts of water were added 5 parts of 2-oxopentanoic acid. The reaction mixture was stirred for 12 hours at room temperature. The whole was poured into ice water and neutralized with a sodium hydroxide solution 3N. The product was extracted three times with 130 parts of dichloromethane. The combined extracts were dried, filtered and evaporated. For obtaining 6-[1-(1H-imidazol-1yl)-2-methylpropyl]-3-propyl-2(1H)-quinoxalinone, the residue was purified by column chromatography (HPLC) over silica gel using a mixture of dichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-butanone and 1,1'-oxybisethane. The precipitated product was filtered off and stirred in cold 4-methyl-2-pentanone. After filtration, the product was recrystallized from a mixture of methanol and 2-propanone, yielding 1.6 parts (13.2%) of the above product; mp. 259.7° C. (comp. 100).

reactant | 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-1,2-benzenediamine | N1(C=NC=C1)C(C(C)C)C=1C=C(C(=CC1)N)N | C13H18N4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-oxopentanoic acid | O=C(C(=O)O)CCC | C5H8O3
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | water | O | H2O
product | 6-[1-(1H-imidazol-1yl)-2-methylpropyl]-3-propyl-2(1H)-quinoxalinone | N1(C=NC=C1)C(C(C)C)C=1C=C2N=C(C(NC2=CC1)=O)CCC | C18H22N4O
